US07776857B2
A sealed tube was charged with 4-bromo-1,2-bis(2-methoxyethoxy)benzene (1.00 g, 3.28 mmol), bis(pinacolato)diboron (1.25 g, 4.92 mmol), potassium acetate (0.965 g, 9.83 mmol), and dioxane (10 mL). 1,1′-Bis(diphenylphosphino)ferrocene-palladium dichloride (0.240 g, 0.328 mmol) was added, the system was flushed with argon, and the tube was sealed. The reaction was stirred at 100° C. overnight. The reaction was filtered through celite and washed with DCM until solvent passing through was clear. The filtrate was concentrated, dissolved in hexanes and passed through a membrane filter. The filtrate was concentrated to afford 2-(3,4-bis(2-methoxyethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as a brown oil. MS: M+H+=353.2.

reactant | 4-bromo-1,2-bis(2-methoxyethoxy)benzene | 3.28 mmol, 1.00 g | BrC1=CC(=C(C=C1)OCCOC)OCCOC | C12H17BrO4
reactant | bis(pinacolato)diboron | 4.92 mmol, 1.25 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9.83 mmol, 0.965 g | C(C)(=O)[O-].[K+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene-palladium dichloride | 0.328 mmol, 0.240 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-(3,4-bis(2-methoxyethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | COCCOC=1C=C(C=CC1OCCOC)B1OC(C(O1)(C)C)(C)C | C18H29BO6
